US09238640B2
To a solution of 2-[4-(4-hydroxy-butoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one (675 mg, 1.69 mmol) in DMF (10 mL) were added PPh3 (489 mg, 1.86 mmol) and CBr4 (619 mg, 1.86 mmol). The reaction mixture was stirred at room temperature for 16 hours. Solvent was removed under reduced pressure. The residue was triturated with ether and ethyl acetate. The solid was dried and then purified by the Simpliflash system using 5% methanol in CH2Cl2 as the eluent to give 2-[4-(4-bromo-butoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one as a white solid. Yield: 494 mg (63%).

reactant | 2-[4-(4-hydroxy-butoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | 1.69 mmol, 675 mg | OCCCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C22H26N2O5
reactant | PPh3 | 1.86 mmol, 489 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | CBr4 | 1.86 mmol, 619 mg | C(Br)(Br)(Br)Br | CBr4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-bromo-butoxy)-3,5-dimethyl-phenyl]-5,7-dimethoxy-3H-quinazolin-4-one | BrCCCCOC1=C(C=C(C=C1C)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC)C | C22H25BrN2O4
